US08604074B2
Step 3. Synthesis of 5-((3,6-dibromo-9H-carbazol-9-yl)methyl)-3-(pyridin-2-yl)oxazolidin-2-one
A mixture of 5-((3,6-dibromo-9H-carbazol-9-yl)methyl)oxazolidin-2-one (0.0195 g, 0.0460 mmol), 2-iodopyridine (0.0209 g, 0.102 mmol), CuI (0.0009 g, 0. 00460 mmol), and K2CO3 (0.0058 g, 0.0418 mmol) in 0.5 mL of DMSO was sealed tightly in a vial and heated at 130° C. for 12 hours. The reaction mixture was cooled and diluted with 20 mL EtOAc and washed with water 5×10 mL. The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was subjected to silica gel chromatography using CH2Cl2/EtOAc as elute to afford 0.0183 g white solid as product, yield 79.4%.

reactant | 5-((3,6-dibromo-9H-carbazol-9-yl)methyl)oxazolidin-2-one | 0.0460 mmol, 0.0195 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1CNC(O1)=O | C16H12Br2N2O2
reactant | 2-iodopyridine | 0.102 mmol, 0.0209 g | IC1=NC=CC=C1 | C5H4IN
reactant | K2CO3 | 0.0418 mmol, 0.0058 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.0009 g | [Cu]I
product | 5-((3,6-dibromo-9H-carbazol-9-yl)methyl)-3-(pyridin-2-yl)oxazolidin-2-one | 0.0183 g, yield 79.4% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1CN(C(O1)=O)C1=NC=CC=C1 | C21H15Br2N3O2
